* Z:\mnt\design.r\spice\examples\ADP2164-1.2.asc
L1 N002 OUT 1µ
R4 N003 0 45.3K
V1 IN 0 5
Rload OUT 0 0.4
R3 OUT N004 100K
R5 IN N001 10
C3 OUT 0 85µ
C1 N001 0 100n
XU1 N001 N003 IN OUT 0 0 N002 IN N001 N001 N004 ADP2164-x.x Rtop=500K Rbot=500K
.tran 2m startup
.lib ADP2164-x.x.sub
.backanno
.end
